US06562978B1
4-{4-[Methyl(methylsulfonyl)amino]benzyl}piperidine Hydrochloride
1-tert-Butoxycarbonyl-4-{4-[methyl(methylsulfonyl)amino]benzyl}piperidine (1.2 g, 3.15 mmol) was dissolved in ethyl acetate (5 mL). To the solution was added 4N-hydrogen chloride in ethyl acetate (10 mL), and the mixture was stirred at room temperature for 2 hours. The resulting crystals were collected by filtration, washed with ethyl acetate (5 mL) and dried to give the titled compound (851 mg) as colorless powdery crystals.

reactant | 1-tert-Butoxycarbonyl-4-{4-[methyl(methylsulfonyl)amino]benzyl}piperidine | 3.15 mmol, 1.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=CC=C(C=C1)N(S(=O)(=O)C)C | C19H30N2O4S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 4-{4-[Methyl(methylsulfonyl)amino]benzyl}piperidine Hydrochloride | 851 mg | Cl.CN(C1=CC=C(CC2CCNCC2)C=C1)S(=O)(=O)C | InChI=1S/C14H22N2O2S.ClH/c1-16(19(2,17)18)14-5-3-12(4-6-14)11-13-7-9-15-10-8-13;/h3-6,13,15H,7-11H2,1-2H3;1H
